US05750531
Synthesis of 5-methyl-6-ethyl-2-(4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.45 ml, 3.6 mmol) was added to a mixture solution of 5-methyl-6-ethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(0.7 g, 2.4 mmol) and dimethylformamide(5 ml), 0.50 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoroaniline | 3.6 mmol, 0.45 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 5-methyl-6-ethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 2.4 mmol, 0.7 g | CC=1C(=NC(=NC1CC)Cl)N1CC2=CC=CC=C2CC1 | C16H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-methyl-6-ethyl-2-(4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.50 g, Yield: 52.2% | Cl.CC=1C(=NC(=NC1CC)NC1=CC=C(C=C1)F)N1CC2=CC=CC=C2CC1 | InChI=1S/C22H23FN4.ClH/c1-3-20-15(2)21(27-13-12-16-6-4-5-7-17(16)14-27)26-22(25-20)24-19-10-8-18(23)9-11-19;/h4-11H,3,12-14H2,1-2H3,(H,24,25,26);1H
